US05958942
ii) Synthesis of 4,5-dihydro-4-(4-trifluoroacetamido butan-1-yl)-3H-1,4,8b-triazaacenaphthylene
To a solution of 3860 mg (12.28 mmol) of 5-[N-(4-trifluoroacetamidobutan-1-yl)aminomethyl]imidazo[1,2-a] pyridine in 15 ml of acetic acid was added 13.8 ml (184.21 mmol) of a 37% aqueous solution of formalin. The mixture was heated for 30 minutes at 100° C. The solvent was distilled off under reduced pressure, and the residue was dissolved in 100 ml of purified water. To this solution was added 2N sodium hydroxide to adjust the pH to 8, and extracted with 150 ml of dichloromethane. The organic layer was washed with 200 ml of a saturated aqueous saline solution, and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to afford 2890 mg of the desired compound (72.0%, a white solid).

reactant | 5-[N-(4-trifluoroacetamidobutan-1-yl)aminomethyl]imidazo[1,2-a] pyridine | 12.28 mmol, 3860 mg | FC(C(=O)NCCCCNCC1=CC=CC=2N1C=CN2)(F)F | C14H17F3N4O
reactant | formalin | C=O | CH2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-4-(4-trifluoroacetamido butan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 2890 mg | FC(C(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C15H17F3N4O
